US06235785B1
A. Preparation of 2-bromophenyldisulfide
To a mixture of 2-bromothiophenol (20.0 g, 106 mmol) and 2N sodium hydroxide solution (100 mL) in diethyl ether (400 mL) was added solid iodine (13.4 g, 53.0 mmol) in portions. The mixture was stirred at room temperature for 1 hour at which time the ether layer was separated. The aqueous layer was extracted with a fresh portion of ether and the combined ether layers were washed once with water, once with a saturated sodium chloride solution, dried over sodium sulfate, filtered, and concentrated in vacuo to provide 17.2 g (43%) of intermediate product as a white solid: mp 95-97° C.; NMR (CDCl3) 7.52 (m, 4H), 7.25 (t, J=9.7 Hz, 2H), 7.06 (t, J=9.7 Hz, 2H); MS-FD m/e 380 (p+4, 20), 379 (p+3, 30), 378 (p+2, 85), 376 (p, 100), 374 (p−2, 75); IR.

reactant | 2-bromothiophenol | 106 mmol, 20.0 g | BrC1=C(C=CC=C1)S | C6H5BrS
reactant | sodium hydroxide | 2N, 100 mL | [OH-].[Na+]
reactant | iodine | 53.0 mmol, 13.4 g | II | I2
solvent | diethyl ether | 400 mL | C(C)OCC | C4H10O
solvent | ether | CCOCC | C4H10O
product | 2-bromophenyldisulfide | 17.2 g, 43% | BrC1=C(C=CC=C1)SSC1=C(C=CC=C1)Br | C12H8Br2S2
